US09085583B2
To a solution of methyl 2-methyl-1H-indole-3-carboxylate (0.52 mmol, 0.1 g) in N,N-dimethylformamide (5 mL), 2-bromo-1-(pyrrolidin-1-yl)propan-1-one (0.52 mmol, 0.137 mg) and cesium carbonate (1.05 mmol, 384 mg) was added. The reaction mixture was heated at 100° C. for 12 hours. LC-MS showed the start material was consumed. The solvent was evaporated and the residue was washed with water (10 ml), extracted with dichloromethane (20 ml). The organic layer was separated, concentrated to give a residue. The residue was purified by column chromatography (silica gel, dichloromethane/methanol=45:1) to give methyl 2-methyl-1-(1-oxo-1-(pyrrolidin-1-yl)propan-2-yl)-1H-indole-3-carboxylate (100 mg, 93%). 1H NMR (300 MHz, CD3OD): δ 8.07-8.03 (m, 1H), 7.44-7.40 (m, 1H), 7.19-7.14 (m, 2H), 5.53-5.49 (m, 1H), 3.90 (s, 3H), 2.80 (s, 3H), 2.00-1.80 (m, 2H), 1.74 (d, J=5.1 Hz, 3H), 1.67-1.64 (m, 4H), 1.32-1.28 (m, 2H).

reactant | methyl 2-methyl-1H-indole-3-carboxylate | 0.52 mmol, 0.1 g | CC=1NC2=CC=CC=C2C1C(=O)OC | C11H11NO2
reactant | 2-bromo-1-(pyrrolidin-1-yl)propan-1-one | 0.52 mmol, 0.137 mg | BrC(C(=O)N1CCCC1)C | C7H12BrNO
reactant | cesium carbonate | 1.05 mmol, 384 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | methyl 2-methyl-1-(1-oxo-1-(pyrrolidin-1-yl)propan-2-yl)-1H-indole-3-carboxylate | 100 mg, 93% | CC=1N(C2=CC=CC=C2C1C(=O)OC)C(C(N1CCCC1)=O)C | C18H22N2O3
